Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:11]([H:12])[H:13].[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-7.21848242102
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.57005170569
[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-5.6946275489600024
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12],3.9814139273
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15],4.74553484991
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][O:2][C@@:3]([H:4])([O:5])[C:9]([H:10])([H:11])[H:12],5.0630618446
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])([H:8])[H:9],2.94343958428
[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-2.59541289137
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.45692391668
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])(=[C:9]([H:10])[H:11])[H:12].[H:1][C:2]([H:3])([C:4]([H:5])[C:13]([H:14])([H:15])[H:16])[H:6],1.1167987529
[H:15].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.87567604506
[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[O:8][H:9])\[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-5.87442509957
[O:11][H:12].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.80867097877
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:14]([H:15])([H:16])[H:17].[H:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.76597306247
[O:1].[O:2]=[C:3]([H:4])/[C:5]=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.04238728958
[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],0.50815590567
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10][O:11]1,2.71029345292
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])=[C:15]([H:16])[H:17],3.89324347876
[H:3].[O:1]=[C:2]=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.5549518798299995
[H:1][C:2]([H:3])([H:4])/[C:5]([O:6][O:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],0.70760488323
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]([H:3])[O:4][C:5]1[C@@:6]2([H:7])[C:8][C@@:9]12[H:10],3.26995221861
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.08765361595
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],4.64315112032
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4][C:6]([H:7])([H:8])[H:9].[H:5],4.89059608339
[H:1][C:2]([H:3])[C@@:4]12[O:5][C:6]1[C:7]2[H:8]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][H:8],0.74888968788
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[O:11][H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[O:11],1.6161102856
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]=[O:4],-1.26719263831
